US04968680
To a mixture of 7-chloro-2,3-dihydro-4(lH)-quinolinone (20.0 g), pyridine (26 g) and dichloromethane (200 ml) was added dropwise 2-methyl-3-thienylcarbonyl chloride (26 g) at room temperature with stirring. The mixture was stirred under reflux for 4 hours. The reaction mixture was poured into 500 ml of water, then shaken with additional dichloromethane (1000 ml). The organic layer was washed once with 1 N HCl (100 ml), twice with water (200 ml each) and once with saturated aqueous NaCl solution, then dried over anhydrous sodium sulfate. Solvent was removed in vacuo and 7-chloro-2,3-dihydro-l-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone (yield 28 g) was obtained as colorless oil.

reactant | 7-chloro-2,3-dihydro-4(lH)-quinolinone | 20.0 g | ClC1=CC=C2C(CCNC2=C1)=O | C9H8ClNO
reactant | pyridine | 26 g | N1=CC=CC=C1 | C5H5N
reactant | 2-methyl-3-thienylcarbonyl chloride | 26 g | CC=1SC=CC1C(=O)Cl | C6H5ClOS
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 7-chloro-2,3-dihydro-l-(2-methyl-3-thienylcarbonyl)-4(lH)-quinolinone | yield 28 g | ClC1=CC=C2C(CCN(C2=C1)C(=O)C1=C(SC=C1)C)=O | C15H12ClNO2S
